US08242125B2
129-B. 1,5-Dicyclopropyl-3-(2,5-dimethyl-pyrrol-1-yl)-1H-pyrazole
A suspension of copper (II) acetate (0.902 g, 4.97 mmol) and 2,2′-bipyridine (0.776 g, 4.97 mmol) in DCE (20 mL) is stirred at 70° C. for 15 min, then transferred to a suspension of cyclopropyl trifluoroborate potassium salt (1.47 g, 9.94 mmol) and 5-Cyclopropyl-3-(2,5-dimethyl-pyrrol-1-yl)-1H-pyrazole (1 g, 4.97 mmol), and sodium carbonate (1.053 g, 9.94 mmol) in DCE (40 mL). The resulting dark-green mixture is stirred at 70° C. for 24 h. T The reaction mixture is partitioned between EtOAc and 1N HCl. The aqueous layer is extracted with EtOAc. The combined organic layers are washed with brine, dried (Na2SO4) and concentrated. The residue (1.64 g) is purified by ISCO (EtOAc-heptane 0-30%) to provide the desired product (1.25 g) as a colorless oil. MS (ESI) m/z 242.3 (M+1).

reactant | 2,2′-bipyridine | 4.97 mmol, 0.776 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | 5-Cyclopropyl-3-(2,5-dimethyl-pyrrol-1-yl)-1H-pyrazole | 4.97 mmol, 1 g | C1(CC1)C1=CC(=NN1)N1C(=CC=C1C)C | C12H15N3
reactant | sodium carbonate | 9.94 mmol, 1.053 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
solvent | DCE | 40 mL | ClCCCl | C2H4Cl2
catalyst | copper (II) acetate | 4.97 mmol, 0.902 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1,5-Dicyclopropyl-3-(2,5-dimethyl-pyrrol-1-yl)-1H-pyrazole | 1.25 g | C1(CC1)N1N=C(C=C1C1CC1)N1C(=CC=C1C)C | C15H19N3
